US05767268
A solution of terephthalic acid bis-[[benzyl 3,4-di-O-acetyl-2,6-didesoxy-6-(2,3 ,4,5,6-penta-O-acetyl-D-gluconoylamino)-α-D-glucopyranosid-2-yl]-amide] in methanol/dioxan 2:1 was deacetylated as described in Ex. 11.F. and gave terephthalic acid bis-[(benzyl 2,6-didesoxy-6-D-gluconoylamino-α-D-glucopyranosid-2-yl)-amide], MS: m/z 1023.3 ([M+H]+).

reactant | terephthalic acid bis-[[benzyl 3,4-di-O-acetyl-2,6-didesoxy-6-(2,3 ,4,5,6-penta-O-acetyl-D-gluconoylamino)-α-D-glucopyranosid-2-yl]-amide] | C(C1=CC=CC=C1)[C@@]1(O)[C@@H]([C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)CNC(=O)[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](OC(C)=O)COC(C)=O)NC(C1=CC=C(C(=O)N[C@H]2[C@@](O)(O[C@@H]([C@H]([C@@H]2OC(C)=O)OC(C)=O)CNC(=O)[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](OC(C)=O)COC(C)=O)CC2=CC=CC=C2)C=C1)=O | C74H90N4O36
solvent | methanol dioxan | CO.O1CCOCC1
product | terephthalic acid bis-[(benzyl 2,6-didesoxy-6-D-gluconoylamino-α-D-glucopyranosid-2-yl)-amide] | C(C1=CC=CC=C1)[C@@]1(O)[C@@H]([C@@H](O)[C@H](O)[C@H](O1)CNC(=O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)NC(C1=CC=C(C(=O)N[C@H]2[C@@](O)(O[C@@H]([C@H]([C@@H]2O)O)CNC(=O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)CC2=CC=CC=C2)C=C1)=O | C46H62N4O22
